### PR TITLE
chore(RingTheory/Pochhammer): fix the type of ascPochhammer_eval_succ

### PR DESCRIPTION
**Pull request by wwylele**
The existing two theorems have the following signature
```lean4
theorem ascPochhammer_nat_eval_succ (r n : ℕ) : 
    n * Polynomial.eval (n + 1) (ascPochhammer ℕ r) = (n + r) * Polynomial.eval n (ascPochhammer ℕ r)

theorem ascPochhammer_eval_succ (S : Type*) [Semiring S] (r n : ℕ) : 
    ↑n * Polynomial.eval (↑n + 1) (ascPochhammer S r) = (↑n + ↑r) * Polynomial.eval (↑n) (ascPochhammer S r)
```

However what's more useful in practice is the following
```lean4
theorem ascPochhammer_eval_succ {S : Type*} [Semiring S] (r : ℕ) (n : S) : 
    n * Polynomial.eval (n + 1) (ascPochhammer S r) =  Polynomial.eval n (ascPochhammer S r) * (n + ↑r)
```
which this PR proves. Note that the multiplication order is changed so it doesn't require commutativity on S.

The old `ascPochhammer_nat_eval_succ` is now a specialization of the new `ascPochhammer_eval_succ` with `S = ℕ` & mul_comm, so it is redundant, thus deprecated.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Pochhammer.lean [hunk 1]
```diff
@@ -218,18 +218,19 @@ theorem factorial_mul_ascPochhammer (S : Type*) [Semiring S] (r n : ℕ) :
...
-    (n + r) * (ascPochhammer S r).eval (n : S) :=
-  mod_cast congr_arg Nat.cast (ascPochhammer_nat_eval_succ r n)
+theorem ascPochhammer_eval_succ {S : Type*} [CommSemiring S] (r : ℕ) (n : S) :
+    n * (ascPochhammer S r).eval (n + 1) = (n + r) * (ascPochhammer S r).eval n := by
+  induction r with
+  | zero => simp
+  | succ r ih =>
+    rw [ascPochhammer_succ_eval, ascPochhammer_succ_eval, ← mul_assoc, ih]
+    push_cast
+    ring
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Pochhammer.lean]: Maybe it's better to rejigger the statement slightly to avoid requiring commutativity:
```lean
theorem ascPochhammer_eval_succ' {S : Type*} [Semiring S] (r : ℕ) (n : S) :
    n * (ascPochhammer S r).eval (n + 1) = (ascPochhammer S r).eval n * (n + r) := by
  induction r with
  | zero => simp
  | succ r ih =>
    rw [ascPochhammer_succ_eval, ascPochhammer_succ_eval, ← mul_assoc, ih]
    grind
```

**Comment by wwylele** [comment]
Thanks. I decided to change the statement of the old theorem directly, as it doesn't feel right to provide multiple versions that are differ by just `mul_comm`. 

-awaiting-author
